### PR TITLE
feat(Geometry/Convex): cancellative convex spaces

### PR DESCRIPTION
**Pull request by YaelDillies**
Define cancellative convex spaces as those space where non-trivial convex combinations are injective in any of their inputs. Show that modules, affine spaces, products of cancellative convex spaces, subspaces of cancellative convex spaces... are cancellative convex spaces.

Cancellative convex spaces are the correct setting for a large number of convexity concepts. Such a convex space embeds into some (canonical) affine space and therefore satisfies the geometrically intuitive properties of convexity. Non-cancellative convex spaces are pathological from the point of view of polytope theory.

[nLab](https://ncatlab.org/nlab/show/convex+space)

Generated by Claude Opus, reviewed and golfed by myself.

From the Polytopes in Berlin workshop, where participants were confused whether they could generalise their results from affine spaces to convex spaces.

Assisted-by: Claude Opus 5

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean [hunk 1]
```diff
@@ -191,3 +193,21 @@ theorem convexCombPair_eq_lineMap (s t : R) (hs : 0 ≤ s) (ht : 0 ≤ t)
...
+    [IsStrictOrderedRing R] [AddCommGroup V] [Module R V] [AddTorsor V P]
+    [Module.IsTorsionFree R V] [ConvexSpace R P] [IsAffineConvexSpace R V P] :
+    IsCancelConvexSpace R P where
+  convexCombPair_left_injective a b ha hb hab y x₁ x₂ hx := by
+    simp only [AddTorsor.convexCombPair_eq_lineMap, AffineMap.lineMap_apply] at hx
+    have ha' : IsRegular a :=
+      ⟨(strictMono_mul_left_of_pos ha).injective, (strictMono_mul_right_of_pos ha).injective⟩
+    have : x₁ -ᵥ y = x₂ -ᵥ y :=
+      Module.IsTorsionFree.isSMulRegular (M := V) ha' (vadd_right_cancel _ hx)
+    simpa using congr($this +ᵥ y)
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean]: This proof doesn't use the lemmas added in this PR, and can be golfed down quite a bit:
```suggestion
  simpa using (IsRegular.of_pos ha).isSMulRegular (vadd_right_cancel _ hx)
```

File: Mathlib/Algebra/Order/GroupWithZero/Basic.lean [hunk 2]
```diff
@@ -677,8 +677,18 @@ lemma StrictMono.mul [PosMulStrictMono M₀] [MulPosStrictMono M₀] (hf : Stric
...
+variable [LinearOrder M₀] {a b : M₀} {m n : ℕ}
+
+lemma IsLeftRegular.of_pos [PosMulStrictMono M₀] (ha : 0 < a) : IsLeftRegular a :=
+  (strictMono_mul_left_of_pos ha).injective
+
+lemma IsRightRegular.of_pos [MulPosStrictMono M₀] (ha : 0 < a) : IsRightRegular a :=
+  (strictMono_mul_right_of_pos ha).injective
+
+lemma IsRegular.of_pos [PosMulStrictMono M₀] [MulPosStrictMono M₀] (ha : 0 < a) : IsRegular a :=
+  ⟨.of_pos ha, .of_pos ha⟩
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/GroupWithZero/Basic.lean]: your statements of these - as well as `strictMono_mul_left_of_pos` and its mul-dual are all true if you generalise MonoidWithZero to Mul and Zero (and keep LinearOrder and the *StrictMono). if you'd prefer, you can make this a separate PR to avoid scope-creep

File: Mathlib/Geometry/Convex/Set.lean [hunk 3]
```diff
@@ -162,6 +162,13 @@ lemma subtypeVal_convexCombPair (s : Set X) (hs : IsConvexSet R s) (a b : R) (ha
   letI : ConvexSpace R s := .subtype s hs
   (isAffineMap_subtypeVal ..).map_convexCombPair ..
 
+/-- A convex subset of a cancellative convex space is a cancellative convex space. -/
+lemma IsCancelConvexSpace.subtype [IsCancelConvexSpace R X] (s : Set X) (hs : IsConvexSet R s) :
+    letI : ConvexSpace R s := .subtype s hs
+    IsCancelConvexSpace R s :=
+  letI : ConvexSpace R s := .subtype s hs
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Set.lean]: since you're producing a Prop, this `letI` buys you nothing over `let`

File: Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean [hunk 4]
```diff
@@ -191,3 +193,21 @@ theorem convexCombPair_eq_lineMap (s t : R) (hs : 0 ≤ s) (ht : 0 ≤ t)
   simp [vsub_self]
 
 end AddTorsor
+
+namespace Convexity
+
+/-- An affine space modelled on a torsion-free module over linearly ordered scalars is a
+cancellative convex space. -/
+instance IsCancelConvexSpace.of_addTorsor {R V P : Type*} [Ring R] [LinearOrder R]
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean]: In the other file, you introduce a LinearOrder section and a PartialOrder section to allow variable re-use for just one lemma. Perhaps you'd like to do the same here, so you can use the R V P from the beginning? Or perhaps you'd prefer to use this solution in that place instead. In either case, let's be consistent about this.

File: Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean]: Sorry, I had an isomorphic change sitting on my local copy for two days

File: Mathlib/Algebra/Order/GroupWithZero/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Basic.lean]: Do we care about this extra generality?

Comment (b-mehta) [reply Mathlib/Algebra/Order/GroupWithZero/Basic.lean]: It means that there's no algebraic axioms present, other than notation, so I claim we do. It removes mul_one, mul_zero and associativity (plus there's already a section in this file for the generality I'm asking for, so there's precedent)
